US06057270
1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(1,3-dioxolan-2-yl)-4-pyrazol-carbonitrile
0.6 g (2.0 mmol) 1-(4-chlor-5-difluormethoxy-1-methyl-3pyrazolyl)-5-formyl-4-pyrazol-carbonitrile is dissolved in 30 ml toluene and 0.14 g (2.2 mmol) ethylene glycol and a catalytic amount of p-toluene sulphonic acid are added. The mixture is heated for 2 hours on the water-separator, the cooled solution is washed with sodium chloride solution, and it is then dried and concentrated.

reactant | 1-(4-chlor-5-difluormethoxy-1-methyl-3pyrazolyl)-5-formyl-4-pyrazol-carbonitrile | 2.0 mmol, 0.6 g | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C=O)C#N | C10H6ClF2N5O2
reactant | ethylene glycol | 2.2 mmol, 0.14 g | C(CO)O | C2H6O2
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(4-chlor-5-difluormethoxy-1-methyl-3-pyrazolyl)-5-(1,3-dioxolan-2-yl)-4-pyrazol-carbonitrile | ClC=1C(=NN(C1OC(F)F)C)N1N=CC(=C1C1OCCO1)C#N | C12H10ClF2N5O3
